US05055468
4-Benzyl-1-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]piperidine (Compound No. 7).
11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene (1.2 gm), 4-benzylpiperidine (7.0 gm) and potassium carbonate (0.40 gm) were combined in hexamethylphosphoramide (8 ml) in a sealed tube and heated to 90° C. for 48 hours. The mixture was extracted between water (50 ml) and ether (50 ml). The aqueous layer was extracted with ether (2×50 ml) and the combined ether solutions were washed with water (2×50 ml), then extracted with 3.6 N sulfuric acid (3×50 ml). The combined acid solutions were made basic with the addition of concentrated aqueous ammonia and the resulting mixture was extracted with ether (3×50 ml). The combined ether solutions were dried over magnesium sulfate and the ether and excess 4-benzylpiperidine were removed on a rotary evaporator. The residue was dissolved in methylene chloride (15 ml) and purified by preparative centrifugally accelerated radial thin layer chromatography on silica gel using 90:9:1 methylene chloride/ethanol/triethylamine as the eluant. The crude product was dissolved in isopropyl alcohol (10 ml) and treated with 6 N hydrochloric acid in isopropyl alcohol (0.5 ml). The solution was added dropwise to ether (150 ml) and the resulting solid was filtered. The solid was recrystallized from isopropyl alcohol to provide the product as a white solid. Analytical data are reported in Table I.

reactant | 11-Bromomethyl-9,10-dihydro-9,10-ethanoanthracene | 1.2 gm | BrCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Br
reactant | 4-benzylpiperidine | 7.0 gm | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 0.40 gm | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | 8 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-Benzyl-1-[(9,10-Dihydro-9,10-ethanoanthracenyl)methyl]piperidine | C(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3 | C29H31N
